US06008229
A mixture of 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-2-carboxypyrrole (1.12 g), potassium carbonate (360 mg) and iodoethane (490 mg) in N,N-dimethylformamide (10 ml) was stirred for 16 hours at 60° C. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with 1M hydrochloric acid, water and brine and dried over magnesium sulfate. The solvent was evaporated to give 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-2-ethoxycarbonylpyrrole (1.22 g) as an oil.

reactant | 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-2-carboxypyrrole | 1.12 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1Cl)N1C(=CC=C1)C(=O)O)Cl | C28H27Cl2NO3Si
reactant | potassium carbonate | 360 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 490 mg | ICC | C2H5I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-2-ethoxycarbonylpyrrole | 1.22 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1Cl)N1C(=CC=C1)C(=O)OCC)Cl | C30H31Cl2NO3Si
